data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
767,829,[CH3:11][C:12]#[N+:13][C-:14]([CH3:15])[C:16](=[O:17])[NH:18][CH3:19].[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([Br:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:14]([CH3:15])([C:16](=[O:17])[NH:18][CH3:19])[N:13]=[C:12]2[CH3:11],water,298.15,11.960586725833531,-55.88718538211011
1190,1294,[Br:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2.[CH3:15][C:16]#[N+:17][CH-:18][C:19](=[O:20])[O:21][CH3:22]>>[Br:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[C:16]([CH3:15])=[N:17][CH:18]2[C:19](=[O:20])[O:21][CH3:22],water,298.15,12.4863904156416,-48.9194274944155
684,744,[CH3:13][C:14](=[O:15])[C:16]([C:17]#[N:18])=[O+:19][C-:20]([C:21]#[N:22])[C:23]#[N:24].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:16]([C:14]([CH3:13])=[O:15])([C:17]#[N:18])[O:19][C:20]3([C:21]#[N:22])[C:23]#[N:24],water,298.15,5.230732115409166,-55.56370540571138
922,1000,[CH2:11]=[N+:12]([CH3:13])[C-:14]([C:15](=[O:16])[NH:17][CH3:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:14]([C:15](=[O:16])[NH:17][CH3:18])([C:19](=[O:20])[O:21][CH3:22])[N:12]([CH3:13])[CH2:11]2,water,298.15,22.522195566337288,-32.32509425156685
3705,4231,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[C:10]([C:11]#[N:12])=[NH+:13][N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[NH:13][C:10]1([C:8]([CH3:7])=[O:9])[C:11]#[N:12],water,298.15,28.956641917630684,2.1949968749449966
393,425,[CH3:9][CH:10]=[N+:11]([CH3:12])[C-:13]([C:14]([CH3:15])=[O:16])[C:17]([CH3:18])=[O:19].[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:13]([C:14]([CH3:15])=[O:16])([C:17]([CH3:18])=[O:19])[N:11]([CH3:12])[CH:10]3[CH3:9],water,298.15,22.90348567260652,-20.738103608541948
2672,2969,[CH3:19][N+:20]([CH-:21][C:22]#[N:23])=[C:24]([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1.[CH3:1][O:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]#[C:11][C:12]([Cl:13])([Cl:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]2=[C:11]([C:12]([Cl:13])([Cl:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:24]([c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[N:20]([CH3:19])[CH:21]2[C:22]#[N:23],water,298.15,15.34766372438112,-39.49831237623904
4327,4948,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14]([CH3:15])=[O+:16][CH-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[O:16][C:14]2([C:12]([CH3:11])=[O:13])[CH3:15],water,298.15,10.852437335376688,-29.37009062448985
3825,4379,[CH3:9][NH:10][C:11](=[O:12])[N-:13][O+:14]=[C:15]([CH3:16])[C:17](=[O:18])[NH:19][CH3:20].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[N:13]([C:11]([NH:10][CH3:9])=[O:12])[O:14][C:15]1([CH3:16])[C:17](=[O:18])[NH:19][CH3:20],water,298.15,19.876810243423407,-33.231883666106704
3014,3366,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH:9]#[N+:10][N-:11][C:12]([CH3:13])=[O:14]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[N:11]([C:12]([CH3:13])=[O:14])[N:10]=[CH:9]2,water,298.15,14.812265627328625,-35.794492401741095
1079,1176,[CH3:13][N-:14][NH+:15]=[C:16]([C:17](=[O:18])[O:19][CH3:20])[C:21](=[O:22])[O:23][CH3:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[N:14]([CH3:13])[NH:15][C:16]2([C:17](=[O:18])[O:19][CH3:20])[C:21](=[O:22])[O:23][CH3:24],water,298.15,26.083078061938583,-6.681373687520933
3013,3365,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[N:11]=[NH+:12][NH-:13]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[NH:13][NH:12][N:11]1[C:9]([NH:8][CH3:7])=[O:10],water,298.15,38.60550821446925,2.4231247625512946
4459,5091,[CH3:10][NH:11][C:12](=[O:13])[c:14]1[o:15][c:16](=[O:17])[c-:18]([C:19](=[O:20])[NH:21][CH3:22])[o+:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[O:15][C:16](=[O:17])[C:18]1([C:19](=[O:20])[NH:21][CH3:22])[O:23]2,water,298.15,16.133528924569124,-15.529998604267384
